US07427688B2
Synthesis of 2-amino-3,3-diphenylpropanoic acid hydrochloride
A solution (21 mL) of 2-acetylamino-3,3-diphenylpropanoic acid (2.83 g, 10 mmol) in concentrated hydrochloric acid was stirred at 90° C. for 5 hrs, and the reaction mixture was cooled in an ice bath to allow solid precipitation. The solid was collected by filtration and dried to give the title compound (2.65 g).

reactant | 2-acetylamino-3,3-diphenylpropanoic acid | 10 mmol, 21 mL, 2.83 g | C(C)(=O)NC(C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H17NO3
reactant | hydrochloric acid | Cl | ClH
product | 2-amino-3,3-diphenylpropanoic acid hydrochloride | 2.65 g | Cl.NC(C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C15H15NO2.ClH/c16-14(15(17)18)13(11-7-3-1-4-8-11)12-9-5-2-6-10-12;/h1-10,13-14H,16H2,(H,17,18);1H
